US05750545
5-Amino-1-[methylamino(thiocarbonyl)]-1H-1,2,4-triazole
The synthesis method of Example 1-(3) was applied. 3-Amino-1H-1,2,4-triazole (3.91 g), dimethylformamide (20 ml) and methyl isothiocyanate (3.41 g) were used as reagents. After the reaction, the resulting substance was removed by filtration and the filtrate was extracted with ethyl acetate, after which the obtained white solid was recrystallized from ethanol and ethyl acetate to give 1.34 g of yellow crystals (yield 18%).

reactant | 3-Amino-1H-1,2,4-triazole | 3.91 g | NC1=NNC=N1 | C2H4N4
reactant | methyl isothiocyanate | 3.41 g | CN=C=S | C2H3NS
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-Amino-1-[methylamino(thiocarbonyl)]-1H-1,2,4-triazole | 1.34 g, yield 18% | NC1=NC=NN1C(=S)NC | C4H7N5S
